US05726172
The 2-ethyl-3-chloromethylpyridine (2.4 g, 15.4 mmol) was dissolved in CHCl3 (100 mL) and cooled under nitrogen to 0° C. and m-chloroperbenzoic acid (55%, 4.2 g) was added in small portions. The reaction was stirred for 2 hours. The reaction was extracted twice with saturated aqueous sodium bicarbonate (100 mL). The organic phase was dried with MgSO4, filtered and the solvent was removed under reduced pressure. The residue was chromatographed on silica gel packed in 98:2 CH2Cl2 :MeOH and eluted with the same. The appropriate fractions were combined and the solvent removed under reduced pressure the give the desired 2-ethyl-3-chloromethylpyridine-N-oxide.

reactant | 2-ethyl-3-chloromethylpyridine | 15.4 mmol, 2.4 g | C(C)C1=NC=CC=C1CCl | C8H10ClN
reactant | m-chloroperbenzoic acid | 4.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-ethyl-3-chloromethylpyridine-N-oxide | C(C)C1=[N+](C=CC=C1CCl)[O-] | C8H10ClNO
